US06440995B1
(RS)-1-Amino-3-[2-(3,4-dichloro-phenyl)-7-methoxy-quinolin-4-ylamino]-propan-2-ol hydrochloride
The title compound, m.p. 230-233° C., and MS: m/e=391 (M+), was prepared from 4-chloro-2-(3,4-dichloro-phenyl)-7-methoxy-quinoline and 1,3-diamino-2-propanol.

reactant | 4-chloro-2-(3,4-dichloro-phenyl)-7-methoxy-quinoline | ClC1=CC(=NC2=CC(=CC=C12)OC)C1=CC(=C(C=C1)Cl)Cl | C16H10Cl3NO
reactant | 1,3-diamino-2-propanol | NCC(CN)O | C3H10N2O
product | (RS)-1-Amino-3-[2-(3,4-dichloro-phenyl)-7-methoxy-quinolin-4-ylamino]-propan-2-ol hydrochloride | Cl.NCC(CNC1=CC(=NC2=CC(=CC=C12)OC)C1=CC(=C(C=C1)Cl)Cl)O | InChI=1S/C19H19Cl2N3O2.ClH/c1-26-13-3-4-14-18(23-10-12(25)9-22)8-17(24-19(14)7-13)11-2-5-15(20)16(21)6-11;/h2-8,12,25H,9-10,22H2,1H3,(H,23,24);1H
